US05436240
Part C. Methyl 2-chloro-4-methyl-1H-benzimidazole-1-carboxylate
Potassium hydride (0.85 g of 35% in oil, washed with ether to remove oil, 7.4 mmol) was added to a stirred solution of 2-chloro-4-methyl-1H-benzimidazole (1.23 g, 7.4 mmol) in THF (25 mL). Methyl chloroformate (0.7 g, 7.4 mmol) was added and the reaction was stirred 10 minutes. The solvent was removed and the material was partitioned between ethyl acetate and water. Evaporation of the organic layer gave 1.68 g of white solid. Crystallization from hexane gave 1.42 g of white crystals, mp 90°-91° C. Anal. Calc'd for C10H9ClN2O2 : C, 53.47; H, 4.04; C1, 15.78; N, 12.47. Found: C, 53.63; H, 4.11; Cl, 15.81; N, 12.45.

reactant | Potassium hydride | 7.4 mmol, 0.85 g | [H-].[K+]
reactant | 2-chloro-4-methyl-1H-benzimidazole | 7.4 mmol, 1.23 g | ClC1=NC2=C(N1)C=CC=C2C | C8H7ClN2
reactant | Methyl chloroformate | 7.4 mmol, 0.7 g | ClC(=O)OC | C2H3ClO2
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | Methyl 2-chloro-4-methyl-1H-benzimidazole-1-carboxylate | 1.68 g | ClC1=NC2=C(N1C(=O)OC)C=CC=C2C | C10H9ClN2O2
